US08563747B2
One-Pot Preparation of ethyl 3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carboxylate (DFPE)
The toluene solution of crude ethyl 3-difluoromethylpyrazole-4-carboxylate was stirred and cooled to 20° C. Water (260 ml), tetramethylammonium chloride (10% aqueous solution, 15.0 g), and 25% NaOH solution (36-60 g) were added in sequence. Dimethyl sulphate (99.5%, 94.5 g, 0.75 mol) and additional 25% NaOH were fed simultaneously over 2 hours at 20° C. while maintaining the pH between 10.5 and 12.0. After 2 hours post reaction, the bottom aqueous phase was separated off.

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | ethyl 3-difluoromethylpyrazole-4-carboxylate | FC(C1=NNC=C1C(=O)OCC)F | C7H8F2N2O2
reactant | NaOH | 36-60 g | [OH-].[Na+]
reactant | Dimethyl sulphate | 0.75 mol, 94.5 g | S(=O)(=O)(OC)OC | C2H6O4S
catalyst | tetramethylammonium chloride | 15.0 g | [Cl-].C[N+](C)(C)C
solvent | Water | 260 ml | O | H2O
product | ethyl 3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carboxylate | FC(C1=NN(C=C1C(=O)OCC)C)F | C8H10F2N2O2
